US07592457B2
3-(3-amino-4-hydroxy-phenyl)-6,8-dibromo-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 13, using a 3-(3-amino-4-methoxy-phenyl)-6,8-dibromo-3-methyl-1H-quinoline-2,4-dione (36 mg, 0.079 mmol) and BBr3(0.4 mL, 1.0 M solution in dichloromethane). After normal workup, the pure objective compound (18 mg, 52%) was obtained as pale yellow solid by a flash column chromatography (n-hexane:EtOAc=3:1): 1H NMR (200 MHz, CDCl3) δ 1.64 (s, 3H, CH3), 4.85 (br s, 3H, NH2 & OH), 6.41 (d, J=2.4 Hz, 1H, ArH), 6.37 (dd, J=8.6, 2.4 Hz, 1H, ArH), 6.55-6.61 (m, 2H, ArH), 7.86 (d, J=2.0 Hz, 1H, ArH); HRMS m/e cacld. for C16H12N2O3Br2 437.9215, found 437.9211.

reactant | 3-(3-amino-4-methoxy-phenyl)-6,8-dibromo-3-methyl-1H-quinoline-2,4-dione | 0.079 mmol, 36 mg | NC=1C=C(C=CC1OC)C1(C(NC2=C(C=C(C=C2C1=O)Br)Br)=O)C | C17H14Br2N2O3
reactant | BBr3 | 1.0 M, 0.4 mL | B(Br)(Br)Br | BBr3
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-amino-4-hydroxy-phenyl)-6,8-dibromo-3-methyl-1H-quinoline-2,4-dione | 18 mg, 52% | NC=1C=C(C=CC1O)C1(C(NC2=C(C=C(C=C2C1=O)Br)Br)=O)C | C16H12Br2N2O3
